US04049823
A solution of 2.26 of 1-p-biphenylyl-3-hydroxypropan-1-one (obtainable by acylating biphenyl with 3-methoxypropionyl chloride to give 1-p-biphenylyl-3-methoxypropan-1-one and subsequent ether splitting) in 20 ml. of THF is added dropwise at 20°, with stirring, to a Grignard solution prepared from 3 g. of methyl iodide and 0.5 g. of magnesium in 100 ml. of ether. The mixture is stirred for a further 4 hours, the resulting alcoholate is decomposed by means of water and dilute sulfuric acid, and standard working up gives 3-p-biphenylyl-1,3-butanediol, m.p. 115°-117°.

reactant | 1-p-biphenylyl-3-hydroxypropan-1-one | C1(=C(C=CC=C1)C(CCO)=O)C1=CC=CC=C1 | C15H14O2
reactant | methyl iodide | CI | CH3I
reactant | magnesium | [Mg] | Mg
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
solvent | THF | C1CCOC1 | C4H8O
product | 3-p-biphenylyl-1,3-butanediol | C1(=C(C=CC=C1)C(CCO)(C)O)C1=CC=CC=C1 | C16H18O2
